US06713499B2
To a stirred solution of 100 mg (01.17 mmol) (2-benzoylamino-4-methoxy-benzothiazol-7-yl)-(4-methyl-benzyl)-carbamic acid 2,2,2-trichloro-ethyl ester in 3 ml acetic acid at room temperature was added 90 mg (1.34 mmol) activated zinc powder and the mixture was heated at 80° C. for 16 hours. The mixture was then filtered and the filtrate concentrated in vacuo. Flash chromatography (ethyl acetate/hexane) afforded 15 mg (21%) N-[4-methoxy-7-(4-methyl-benzylamino)-benzothiazol-2-yl]-benzamide as a yellow crystalline solid, ES-MS m/e (%): 426 (M+Na+, 27), 404 (M+H+, 100), and 10 mg (13%) N-{7-[acetyl-(4-methyl-benzyl)-amino]-4-methoxy-benzothiazol-2-yl}-benzamide as a yellow crystalline solid, ES-MS m/e (%): 468 (M+Na+, 12), 446 (M+H+, 100).

reactant | (2-benzoylamino-4-methoxy-benzothiazol-7-yl)-(4-methyl-benzyl)-carbamic acid 2,2,2-trichloro-ethyl ester | 100 mg | ClC(COC(N(CC1=CC=C(C=C1)C)C1=CC=C(C=2N=C(SC21)NC(C2=CC=CC=C2)=O)OC)=O)(Cl)Cl | C26H22Cl3N3O4S
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
product | N-[4-methoxy-7-(4-methyl-benzylamino)-benzothiazol-2-yl]-benzamide | 15 mg, 21% | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=CC=C2)=O)NCC2=CC=C(C=C2)C | C23H21N3O2S
